US06143906
6-O-Palmitoyl-2-O-sorboyl-L-ascorbic Acid
50 g (120 mmol; 1 eq.) of 6-O-palmitoyl-L-ascorbic acid were dissolved in 400 ml of pyridine in a 1 l 4-necked flask. 23.40 g (130 mmol; 1.1 eq.) of sorboyl chloride, dissolved in 30 ml of dichloromethane, were slowly added dropwise at an internal temperature of -15° C. Care was taken here that the internal temperature did not exceed -10° C. The mixture was brought to room temperature and additionally stirred for 2 hours. The reaction solution was concentrated on a rotary evaporator and then codistilled with toluene. The residue was taken up in a little dichloromethane and extracted with 1 M HCl. The organic phase was concentrated somewhat and treated with an excess of n-hexane. A white precipitate was deposited, which was dried in an oil pump vacuum.

reactant | 6-O-palmitoyl-L-ascorbic acid | 120 mmol, 50 g, 1 eq. | C(CCCCCCCCCCCCCCC)(=O)OC[C@@H]([C@@H]1C(=C(C(=O)O1)O)O)O | C22H38O7
reactant | sorboyl chloride | 130 mmol, 23.40 g, 1.1 eq. | C(\C=C\C=C\C)(=O)Cl | C6H7ClO
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 6-O-Palmitoyl-2-O-sorboyl-L-ascorbic Acid | C(CCCCCCCCCCCCCCC)(=O)OC[C@@H]([C@@H]1C(=C(C(=O)O1)OC(\C=C\C=C\C)=O)O)O | C28H44O8
